US04797414
A suspension of 5.9 g 4H-2-hydroxymethyl-4-phenyl-thieno[3,2-c][1]benzopyran and 5.8 g of palmitoyl chloride in 50 ml pyridine is stirred at room temperature for 4 h. After filtration, one adds 400 ml water to the filtrate. The precipitate which appears is collected. This material is dissolved in methylene chloride and this organic phase is washed with hydrochloric acid solution, then with water, dried and evaporated. The residue is purified by column chromatography on silicagel using a mixture of n-hexane and methylene chloride as eluant. Pure 4H-2-palmitoyloxymethyl-4-phenyl-thieno[3,2-c][1]benzopyran is obtained as a white powder; m.p. 64°-65° C.

reactant | 2-hydroxymethyl-4-phenyl-thieno[3,2-c][1]benzopyran | OCC1=CC=2C(OC3=C(C2S1)C=CC=C3)C3=CC=CC=C3 | C18H14O2S
reactant | palmitoyl chloride | 5.8 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-palmitoyloxymethyl-4-phenyl-thieno[3,2-c][1]benzopyran | C(CCCCCCCCCCCCCCC)(=O)OCC1=CC=2C(OC3=C(C2S1)C=CC=C3)C3=CC=CC=C3 | C34H44O3S
